US06008229
To a solution of methyl 3-[4-(2-pyridylmethylcarbamoyl)phenyl]propionate (212 mg) in methanol was added 1N sodium hydroxide solution (1 ml), and the mixture was stirred for 5 hours at 50° C. The mixture was concentrated in vacuo, and the residue was dissolved in water and was adjusted to pH 6 with 1N hydrochloric acid. The resulting precipitate was collected by filtration to give 3-[4-(2-pyridylmethylcarbamoyl)phenyl]propionic acid (162 mg).

reactant | methyl 3-[4-(2-pyridylmethylcarbamoyl)phenyl]propionate | 212 mg | N1=C(C=CC=C1)CNC(=O)C1=CC=C(C=C1)CCC(=O)OC | C17H18N2O3
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-[4-(2-pyridylmethylcarbamoyl)phenyl]propionic acid | 162 mg | N1=C(C=CC=C1)CNC(=O)C1=CC=C(C=C1)CCC(=O)O | C16H16N2O3
